US08378095B2
A solution of tris(dibenzylideneacetone)dipalladium(0) (0.079 g, 0.09 mmol), 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (0.100 g, 0.17 mmol), ethyl 5-(4-bromophenyl)oxazole-4-carboxylate (0.500 g, 1.69 mmol), tert-butyl 1-piperazinecarboxylate (0.409 g, 2.20 mmol) and cesium carbonate (0.786 g, 2.41 mmol) in dioxane (25 ml) and t-butanol (25 ml) was degassed, placed under a nitrogen atmosphere and heated under reflux overnight. The solvent was removed in vacuo and the residue partitioned between water and DCM. The organic phase was dried over MgSO4 and the solvent removed in vacuo. The residue was purified by silica gel column chromatography using 50% EtOAc in hexane as eluant to afford tert-butyl 4-(4-(4-(ethoxycarbonyl)oxazol-5-yl)phenyl)piperazine-1-carboxylate (0.340 g, 0.85 mmol, 50%) of a yellow solid. 1H NMR (CDCl3) δ 1.42 (3H, t), 1.49 (9H, s), 3.28 (4H, br. t), 3.59 (4H, br. t), 4.42 (2H, q), 6.95 (2H, d), 7.83 (1H, s), 8.05 (2H, d). LCMS (1) Rt: 2.37 min; m/z (ES+) 402.

reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.17 mmol, 0.100 g | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | ethyl 5-(4-bromophenyl)oxazole-4-carboxylate | 1.69 mmol, 0.500 g | BrC1=CC=C(C=C1)C1=C(N=CO1)C(=O)OCC | C12H10BrNO3
reactant | tert-butyl 1-piperazinecarboxylate | 2.20 mmol, 0.409 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | cesium carbonate | 2.41 mmol, 0.786 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
solvent | t-butanol | 25 ml | C(C)(C)(C)O | C4H10O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.09 mmol, 0.079 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl 4-(4-(4-(ethoxycarbonyl)oxazol-5-yl)phenyl)piperazine-1-carboxylate | 0.85 mmol, 0.340 g, 50% | C(C)OC(=O)C=1N=COC1C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C21H27N3O5
